US08937178B2
A solution of 4-chloro-3-methoxybenzoic acid (5.0 g, 26.7 mmol) in HOAc (25 mL) and water (25 mL) was treated slowly with Br2 (1.6 mL 32 mmol). After heating to 60° C. for 2 h, the reaction was stirred cooled to rt overnight. It was quenched with water (300 mL), and the precipitate was filtered and dried to yield 2-bromo-4-chloro-5-methoxybenzoic acid (5.0 g, 70%). (264.87 [M−H]) 1H NMR: (400 MHz, DMSO) δ: 3.90 (s, 3H), 7.46 (s, 1H), 7.82 (s, 1H), 13.63 (s, 1H).

reactant | 4-chloro-3-methoxybenzoic acid | 26.7 mmol, 5.0 g | ClC1=C(C=C(C(=O)O)C=C1)OC | C8H7ClO3
reactant | Br2 | 32 mmol, 1.6 mL | BrBr | Br2
solvent | HOAc | 25 mL | CC(=O)O | C2H4O2
solvent | water | 25 mL | O | H2O
product | 2-bromo-4-chloro-5-methoxybenzoic acid | 5.0 g, 70% | BrC1=C(C(=O)O)C=C(C(=C1)Cl)OC | C8H6BrClO3
